US07402672B2
3-o-Tolylsulfanyl-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide, Ia-19.
Treat 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide 6a-1 (1.0 equiv) in DMF with bis-(o-tolyl)disulfide (1.1 equiv) as described in General Synthetic Procedure IVb to provide Ia-19 as an ivory colored solid. 1H NMR (DMSO-d6) δ 12.5 (bs, 1H), 8.41 (dd, 1H, J=1.5, 4.5 Hz), 8.05 (bs, 1H), 7.90 (dd, 1H, J=1.5, 8.3 Hz) overlapping with 7.87 (bs, 1H), 7.31 (m, 1H), 7.29 (m, 1H), 7.00 (m, 2H), 6.4 (m, 1H), 3.3 (s, 3H). MS Obs 284.3 (M+1).

reactant | 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | N1C(=CC2=NC=CC=C21)C(=O)N | C8H7N3O
reactant | bis-(o-tolyl)disulfide | 1.1 equiv | C=1(C(=CC=CC1)SSC1=C(C=CC=C1)C)C | C14H14S2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-o-Tolylsulfanyl-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | C1(=C(C=CC=C1)SC1=C(NC=2C1=NC=CC2)C(=O)N)C | C15H13N3OS
